US07345064B2
1-[2-(1-Adamantyl)ethyl]-1-[2-(N-ethylamino)ethyl]-3-[3-(4-pyridyl)propyl]urea (Compound No. 20-1)
Lithium aluminum hydride (890 mg, 23.5 mmol) was suspended in anhydrous diethyl ether (10 ml) under a nitrogen atmosphere, and a solution of 1-[2-(acetylamino)ethyl]-1-[2-(1-adamantyl)ethyl]-3-[3-(4-pyridyl)propyl]urea (Compound No. 1-103) (4.86 g, 11.4 mmol) in anhydrous tetrahydrofuran (60 ml) was added dropwise to the suspension under ice-cooling with stirring over two hours. The temperature was raised to room temperature, and the mixture was stirred for 70 hours. Ethyl acetate (25 ml) was added to the reaction mixture under ice-cooling, then a 1 N aqueous sodium hydroxide solution (25 ml) was added thereto, and the whole was filtered with Celite to remove an insoluble matter. The filtrate was distributed with ethyl acetate (25 ml) and water (25 ml), and the organic layer was washed with a saturated aqueous sodium chloride solution (20 ml). The organic layer was dried over anhydrous magnesium sulfate, the solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the titled compound (2.33 g, colorless crystals, 49.8%).

reactant | Lithium aluminum hydride | 23.5 mmol, 890 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-[2-(acetylamino)ethyl]-1-[2-(1-adamantyl)ethyl]-3-[3-(4-pyridyl)propyl]urea | C(C)(=O)NCCN(C(=O)NCCCC1=CC=NC=C1)CCC12CC3CC(CC(C1)C3)C2 | C25H38N4O2
reactant | Ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
reactant | sodium hydroxide | 1 N, 25 ml | [OH-].[Na+]
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 1-[2-(1-Adamantyl)ethyl]-1-[2-(N-ethylamino)ethyl]-3-[3-(4-pyridyl)propyl]urea | 2.33 g, 49.8% | C12(CC3CC(CC(C1)C3)C2)CCN(C(=O)NCCCC2=CC=NC=C2)CCNCC | C25H40N4O
